US09447044B2
Step A: 2-(2,2-dimethyl-propylsulfanyl)pyridine-3-carboxylic acid
2-Mercapto-nicotinic acid (0.5 g, 3.2 mmol) and 1-iodo-2,2-dimethyl-propanol were reacted in the same manner as in Step A of Preparation Example 10 to obtain the title compound (0.12 g, 16%).

reactant | 2-Mercapto-nicotinic acid | 3.2 mmol, 0.5 g | SC1=C(C(=O)O)C=CC=N1 | C6H5NO2S
reactant | 1-iodo-2,2-dimethyl-propanol | IC(C(C)(C)C)O | C5H11IO
product | 2-(2,2-dimethyl-propylsulfanyl)pyridine-3-carboxylic acid | 0.12 g, 16% | CC(CSC1=NC=CC=C1C(=O)O)(C)C | C11H15NO2S
